US05811439
The same procedures used in Example 7 were repeated except for using 5.96 g of 4-nitrobenzyl bromide and 2.00 g of indole-3-carbaldehyde as a starting material to give 2.38 g of 1-(4-nitrobenzyl) indole-3-carbaldehyde as pale brown crystals. The yield thereof was found to be 62%.

reactant | 4-nitrobenzyl bromide | 5.96 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | indole-3-carbaldehyde | 2.00 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
product | 1-(4-nitrobenzyl) indole-3-carbaldehyde | 2.38 g | [N+](=O)([O-])C1=CC=C(CN2C=C(C3=CC=CC=C23)C=O)C=C1 | C16H12N2O3
